Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year-old M with PMHx of HTN, IDDM, anxiety, and chronic 
abdominal pain (likely gastritis or gastroparesis) with 11 
hospital admissions in the last 12 months, with multiple ED 
visits in between, who presents for recurrence of his same 
abdominal pain symptoms.

 
In ED: VS: 93 171/110 18 100% RA 
Found to be in AFIB 112, which reverted to NSR; found to have 
leukocytosis with no bandemia; CXR unremarkable, KUB 
unremarkable

Meds received in ED: Morphine 4 mg IV x 2

VS prior to transfer to floor: 176/90 65 12 97%RA

On floor, patient reports his abdominal pain "comes and goes". 
He also endorses constipation, but last bowel movement was 
yesterday (___). He also reports nausea without vomitting. He 
denies cough, sneezing, diarrhea, skin problems, headache, chest 
pain or dysuria.
 
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies visual changes, headache, sinus tenderness, 
rhinorrhea, congestion or sore throat. Denies chest pain or 
tightness, palpitations, orthopnea, dyspnea on exertion. Denies 
cough, shortness of breath, wheezes or pleuritic pain. Denies 
nausea, vomiting, diarrhea, BRBPR or melena. No dysuria, urinary 
frequency. Denies arthralgias or myalgias. Denies rashes. No 
numbness/tingling or muscle weakness in extremities. No feelings 
of depression or anxiety. All other review of systems negative. 
 
Past Medical History:
HTN
Diabetes mellitus type II, insulin-dependent
Chronic abdominal pain 
Anxiety NOS  
Hx of EtOH abuse: reports no alcohol for past ___ yrs.  
s/p bilateral cataract surgery ___  
Right knee trauma in ped v truck accident at work

 
Social History:
___
Family History:
mother alive in ___ with HTN, and DM  
father - died in his ___ of unknown causes  
sister with HTN  
Four kids, all well 
(confirmed)
 
Physical Exam:
VS: 97.5 ___ 100%RA
 
GEN: Alert and oriented to person, place and situation; no 
apperent distress
HEENT: no trauma, pupils round and reactive to light and 
accomodation, no LAD, oropharynx clear, no exudates
CV: regular rate and rhythm, no murmurs/gallops/rubs
PULM: clear to auscultation bilaterally, no 
rales/crackles/rhonchi
GI: soft, non-tender, non-distended; no guarding/rebound
EXT: no clubbing/cyanosis/edema; 2+ distal pulses; peripheral IV 
present
NEURO: CN II-XII intact, ___ motor function globally
DERM: no lesions appreciated
 
 
 
Pertinent Results:
___ 03:05PM   WBC-12.8*# RBC-4.89 HGB-14.1 HCT-43.2 MCV-88 
MCH-28.8 MCHC-32.6 RDW-15.3
___ 03:05PM   NEUTS-78.3* LYMPHS-14.6* MONOS-5.2 EOS-1.3 
BASOS-0.6
___ 03:05PM   PLT COUNT-292
___ 04:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:50PM URINE  HOURS-RANDOM
___ 03:50PM URINE  HOURS-RANDOM
___ 03:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 03:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-75 
GLUCOSE-TR KETONE-15 BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 LEUK-NEG
___ 03:50PM URINE  RBC-0 ___ BACTERIA-NONE YEAST-NONE 
EPI-0
___ 03:12PM   PH-7.49* COMMENTS-GREEN TOP
___ 03:12PM   GLUCOSE-146* LACTATE-2.6* NA+-143 K+-3.8 
CL--101 TCO2-23
___ 03:12PM   freeCa-1.08*
___ 03:05PM   UREA N-10 CREAT-0.8

CXR PA/LAT:
FRONTAL AND LATERAL VIEWS OF THE CHEST: Lungs are clear with no 
pneumonia or congestive heart failure. There is no pneumothorax 
or pleural effusion. 
Heart, mediastinum, hila, and pleural surfaces are normal. There 
is no 
evidence of free air. 
IMPRESSION: No acute intrathoracic abnormality. 
The study and the report were reviewed by the staff radiologist. 


KUB:
SUPINE AND UPRIGHT VIEWS OF THE ABDOMEN: There is no evidence of 
free air or bowel obstruction. Nonspecific bowel gas pattern is 
noted. Imaged osseous structures are grossly unremarkable. 
Vascular calcifications in the pelvis are noted.  
IMPRESSION: No free air or bowel obstruction. 
The study and the report were reviewed by the staff radiologist. 

.
___ 05:30AM BLOOD WBC-6.7 RBC-4.35* Hgb-12.6* Hct-38.4* 
MCV-88 MCH-28.9 MCHC-32.8 RDW-15.1 Plt ___
___ 05:30AM BLOOD Glucose-69* UreaN-17 Creat-0.9 Na-137 
K-3.7 Cl-98 HCO3-31 AnGap-12
___ 07:05AM BLOOD ALT-15 AST-18 LD(LDH)-202 CK(CPK)-164 
AlkPhos-80 TotBili-0.7
___ 07:05AM BLOOD CK-MB-3 cTropnT-<0.01
___ 11:59AM BLOOD CK(CPK)-148
___ 11:59AM BLOOD CK-MB-3 cTropnT-<0.01
___ 07:33PM BLOOD CK(CPK)-175
___ 07:33PM BLOOD CK-MB-3 cTropnT-LESS THAN 
___ 10:18AM BLOOD ALT-19 AST-21 CK(CPK)-215 AlkPhos-78 
TotBili-0.7
___ 10:18AM BLOOD CK-MB-3 cTropnT-<0.01
.
Serial EKGs showed NSR with LVH consistent with baseline, 
otherwise no acute ST changes.
.
CT head ___: IMPRESSION: No acute intracranial hemorrhage.
 
Brief Hospital Course:
Pt was admitted with abd pain/N/V and elevated blood pressures. 
On the morning of ___, a code blue was called for his roomate 
and during the commotion he started complaining of severe chest 
pain. Pt was diaphoretic and grabbing his chest with BPs of 
220/120.  EKGs showed LVH without acute ST changes and pt was 
endorsing confusion. He was taken for stat head CT that did not 
show any acute hemorrhage. BP came down to 180/100 (bilaterally) 
with nitropaste, IV metoprolol and 10mg IV morphine. Pt was 
transferred to the ICU for concern of hypertensive emergency and 
he had a PICC placed prior to being started on a nitro gtt.   Pt 
had four sets of negative cardiac enzymes, stable creatinine and 
EKGs.  On further examination, he was not endorsing any 
confusion and was transitioned to his home regimen of Valsartan, 
Diltiazem with low dose labetalol. Pt was examined serially in 
the ICU and was inconsistent in describing his symptoms. It was 
unclear whether the acute pain episode was actually consistent 
with his recurrent epigastric pain, chest pain or an acute 
anxiety attack.  Given his history of anxiety/stress 
precipitating his symptoms, he was seen by Social Work after 
transfer back to the medicine floor.  He reported a number of 
stressors at home that he felt were contributing to his 
symptoms.  Pt did report some ongoing epigastric pain but was 
tolerating po and denied any chest pain or shortness of breath.  
After speaking with social work, pt was feeling better and 
asking to return home. He reported that he had run out of his 
blood pressure medications and he was given refills for 
Valsartan, Diltiazem and ___ referral. He was scheduled to have 
a home visiting nurse with social work consult on ___, ___.  They will assist in getting him close follow up with Dr. 
___ and help with blood sugar management at home.
.
There were no changes made to his diabetes, Atrial Fib or 
anti-hypertensive regimen.  By the time of discharge, his blood 
pressure was well controlled on his home regimen of ___ and 
he was tolerating po well.

 
Medications on Admission:
1. Metoclopramide 10 mg 1 Tablet PO QIDACHS. 
2. Simethicone 80 mg 1 Tablet PO TID.
3. Omeprazole 20 mg (E.C.) 1 Capsule PO BID.
4. Sucralfate 1 gram 1 Tablet PO four times a day.  
5. Valsartan 160 mg 1 Tablet PO Daily. 
6. Diltiazem HCl 120 mg Capsule, Sustained Release 2 Capsules PO 
Daily.
7. Acetaminophen 500 mg ___ Tablets PO three times a day as 
needed for pain.  
8. Insulin Glargine 20 units Subcutaneous at bedtime.  

 
Discharge Medications:
1. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
2. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
3. simethicone 80 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
4. sucralfate 1 gram Tablet Sig: One (1) Tablet PO four times a 
day.  
5. valsartan 160 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. diltiazem HCl 240 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO once a day.
Disp:*30 Capsule, Sustained Release(s)* Refills:*2*
7. Tylenol ___ mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for pain.  
8. insulin glargine 100 unit/mL Cartridge Sig: Twenty (20) units 
Subcutaneous once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Abdominal pain
Hypertensive Urgency
Chest pain
Anxiety
.
Secondary:
Diabetes
Hypertension

 
Discharge Condition:
Mental Status: Clear
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with abdominal pain and elevated blood 
pressure.  There has been no evidence of damage to the heart 
muscle.  You have been treated for the abdominal pain and have 
been seen by the social worker.  We have requested a home 
visiting nurse to come and help you at home with medications and 
blood sugar management.   
.
Please continue to take your medications as prescribed and call 
Dr. ___ office on ___ morning.  The visiting nurse ___ 
help you schedule a follow up appointment next week.

 
Followup Instructions:
___